US04341784
A mixture containing ethyl 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (2.99 g), 3-(N-acetylmethylamino)pyrrolidine (2.13 g), triethylamine (1.52 g), and chloroform (30 ml) was heated to reflux for 4 hours with stirring. After cooling the mixture, 5% hydrochloric acid (20 ml) was added with stirring. The chloroform layer was separated off and the solvent was evaporated. To the residue was added 20 ml of acetonitrile and the mixture was cooled. The resulting precipitate was collected and recrystallized from acetonitrile to give 3.51 g of ethyl 7-[3-(N-acetylmethylamino)-1-pyrrolidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate, m.p. 212°-213° C.

reactant | ethyl 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 2.99 g | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)OCC)=O)F | C13H12ClFN2O3
reactant | 3-(N-acetylmethylamino)pyrrolidine | 2.13 g | C(C)(=O)CNC1CNCC1 | C7H14N2O
reactant | triethylamine | 1.52 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 7-[3-(N-acetylmethylamino)-1-pyrrolidinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 3.51 g | C(C)(=O)CNC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)OCC)=O)F | C20H25FN4O4
